US08975400B2
3-(2,6-difluoro-4-formylphenoxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4,5-trifluorobenzaldehyde and 3-hydroxybenzonitrile.

reactant | 3,4,5-trifluorobenzaldehyde | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | 3-hydroxybenzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
product | 3-(2,6-difluoro-4-formylphenoxy)benzonitrile | FC1=C(OC=2C=C(C#N)C=CC2)C(=CC(=C1)C=O)F | C14H7F2NO2
